US04883877
(a) 1-(4-Chlorophenyl)-3-methyl-3-azabicyclo[3.1.1]heptane hydrochloride
Analogously to Example 1a), 3.9 g of 1-(4-chlorophenyl)-3-methyl-3-azabicyclo[3.1.1]heptane-2,4-dione in 70 ml of toluene are reacted with 25 ml of a toluene solution of sodium dihydro-bis-(2-methoxyethoxy)aluminate (70%; FLUKA) and the mixture is worked up with 25 ml of concentrated sodium hydroxide solution. m.p. of the title compound: 180-182° C.

reactant | 1-(4-chlorophenyl)-3-methyl-3-azabicyclo[3.1.1]heptane-2,4-dione | 3.9 g | ClC1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)C)=O | C13H12ClNO2
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Chlorophenyl)-3-methyl-3-azabicyclo[3.1.1]heptane hydrochloride | Cl.ClC1=CC=C(C=C1)C12CN(CC(C1)C2)C | InChI=1S/C13H16ClN.ClH/c1-15-8-10-6-13(7-10,9-15)11-2-4-12(14)5-3-11;/h2-5,10H,6-9H2,1H3;1H
